US09303035B2
1,3-Dimethyl-10-(5-methylfuran-2-yl)-5-phenyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione
6-(2-Hydroxyethyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (Int C) (244 mg, 0.815 mmol), bismuth triflate (50.9 mg, 0.082 mmol, 10 mol %) and EtOH (2.4 mL) were treated with 5-methylfuran-2-carbaldehyde (commercially available, 0.089 mL, 0.082 mmol). The mixture was heated to 100° C. for 10 min using microwave irradiation. A further portion of 5-methylfuran-2-carbaldehyde (25 μL) was added to the reaction mixture and heating continued at 100° C. for 5 min. A solid formed on cooling, which was collected by reduced pressure filtration and washed with EtOH followed by diethyl ether, affording the title compound.

reactant | 6-(2-Hydroxyethyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.815 mmol, 244 mg | OCCN1C=C2N(C(N(C(C2=C1C1=CC=CC=C1)=O)C)=O)C | C16H17N3O3
reactant | bismuth triflate | 0.082 mmol, 50.9 mg | [O-]S(=O)(=O)C(F)(F)F.[Bi+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | 5-methylfuran-2-carbaldehyde | CC1=CC=C(O1)C=O | C6H6O2
reactant | 5-methylfuran-2-carbaldehyde | 25 μL | CC1=CC=C(O1)C=O | C6H6O2
solvent | EtOH | 2.4 mL | CCO | C2H6O
product | 1,3-Dimethyl-10-(5-methylfuran-2-yl)-5-phenyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | CN1C(N(C(C=2C1=C1C(OCCN1C2C2=CC=CC=C2)C=2OC(=CC2)C)=O)C)=O | C22H21N3O4
